data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202201155.json
{"doi": "10.1002_adsc.202201155", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Cobalt-catalyzed electrochemical C-H/N-H annulation of 8-aminoquinoline benzamides with alkenes to give dihydroisoquinolinone derivatives", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic"], "electrochemical_role": "Anodic oxidation regenerates the active Co(III) catalyst from Co(I)/Co(II); cathode reduces protons to H2. The electrode shuttles electrons via the cobalt catalyst rather than directly oxidizing substrate.", "key_intermediates": [{"name": "Co(II)-amide complex coordinated to 8-aminoquinoline benzamide [Co(II)-A]", "smiles": null, "role": "resting_state"}, {"name": "Co(III)-amide complex [Co(III)-A] after anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "Cobaltacycle from BIES C-H activation [Co(III)-B]", "smiles": null, "role": "reactive"}, {"name": "Alkene-coordinated Co(III) complex [Co(III)-C]", "smiles": null, "role": "transient"}, {"name": "Seven-membered cobaltacycle from 1,2-migratory insertion [Co(III)-D]", "smiles": null, "role": "reactive"}, {"name": "Co(I) species released after reductive elimination", "smiles": null, "role": "transient"}], "electron_flow": "Co(II) binds the benzamide N-H, is anodically oxidized to Co(III), then performs BIES C-H metalation; alkene coordinates and migratory insertion gives a 7-membered cobaltacycle that reductively eliminates product and Co(I), which is reoxidized at the anode while protons are reduced at the cathode to H2.", "rate_determining_step": "C-H activation step (BIES-type concerted metalation-deprotonation), supported by KIE = 1.2 and highly unsymmetrical transition state", "probe_reagents": [{"name": "CD3OD (H/D exchange)", "smiles": "[2H]OC([2H])([2H])[2H]", "purpose": "isotope_label", "observation": "<5% D incorporation in recovered 1a and in product 3aa, indicating C-H metalation is likely irreversible"}, {"name": "[D5]-1a deuterated benzamide", "smiles": null, "purpose": "KIE", "observation": "kH/kD = 1.2, suggesting C-H cleavage is involved but with a highly unsymmetrical TS"}, {"name": "Competition between 1b (Me) and 1h (CF3) benzamides", "smiles": null, "purpose": "other", "observation": "3ba:3ha = 1.7:1, electron-rich amide reacts faster, consistent with BIES pathway"}, {"name": "Three-component coupling with benzoyl chloride 9 + 8-aminoquinoline 10 + styrene 2a", "smiles": null, "purpose": "intermediate_trap", "observation": "Only 15% of 3aa obtained, indicating covalently pre-installed quinoline directing group is essential"}, {"name": "Cyclic voltammetry of 1a, Co(acac)2, NaOPiv mixtures", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peaks at 1.11 V and 1.61 V appear only with 1a+Co+NaOPiv, supporting formation/oxidation of a Co(III)-amide intermediate rather than direct substrate oxidation (1a alone at 1.66 V; 2a at 1.94 V)"}], "evidence_types_used": ["KIE", "H/D_labeling", "cyclic_voltammetry", "kinetic_order", "intermediate_trap_other"], "evidence_strength": "strong", "notes": "Authors derivatize product 3aa (Pd/C-H2 to 4; LiAlH4 to 5) to demonstrate synthetic utility. The covalently bound 8-aminoquinoline directing group is mechanistically essential — a stepwise three-component variant fails (15%). No quenching of CV signal by alkene 2a argues against alkene oxidation as a productive step."}
